US07135475B2
N-{4-[1-(2-fluorobenzyl)-3-(4-hydroxy-butyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-acetamide
Prepared by the reduction of 4-[8-(4-acetylamino-benzyl)-1-(2-fluorobenzyl)-2,6-dioxo-1,2,6,7-tetrahydro-purin-3-yl]-butyric acid methyl ester with lithium borohydride in tetrahydrofuran. The product was purified by chromatography on silica gel eluted with 9:1 chloroform/methanol. MS, m/z(M+)=479.1967.

reactant | 4-[8-(4-acetylamino-benzyl)-1-(2-fluorobenzyl)-2,6-dioxo-1,2,6,7-tetrahydro-purin-3-yl]-butyric acid methyl ester | COC(CCCN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)NC(C)=O)=O)CC1=C(C=CC=C1)F)=O)=O | C26H26FN5O5
reactant | lithium borohydride | [BH4-].[Li+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-{4-[1-(2-fluorobenzyl)-3-(4-hydroxy-butyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-acetamide | FC1=C(CN2C(N(C=3N=C(NC3C2=O)CC2=CC=C(C=C2)NC(C)=O)CCCCO)=O)C=CC=C1 | C25H26FN5O4
